US06107291
7-Benzhydryloxy-1-(4-methoxybenzenesulfonyl)-2,5,5a,8a-tetrahydro-1H-pyrrolo[3,4-b]azepine-6,8-dione (100 mg, 0.19 mmol) was dissolved in THF (2 mL) and cooled to -78° C. This solution was treated dropwise with a 3 M solution of phenyl magnesium bromide in diethyl ether and then warmed to ambient temperature. The reaction mixture was stirred another 2.5 hrs at room temperature, cooled to 0° C., and quenched with saturated aqueous NH4Cl (2 mL). This mixture was then diluted with H2O and diethyl ether and the layers were separated. The organic phase was washed with brine, dried (Na2SO4) and concentrated. The residue was purified by flash chromatography (silica, 5 to 10% ethyl acetate in toluene) to give 3-benzoyl-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid benzhydryloxy-amide; MS: (M+H)+ 596.9, (M+NH4)+ 614.2.

reactant | 7-Benzhydryloxy-1-(4-methoxybenzenesulfonyl)-2,5,5a,8a-tetrahydro-1H-pyrrolo[3,4-b]azepine-6,8-dione | 0.19 mmol, 100 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)ON1C(C2N(CC=CCC2C1=O)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C28H26N2O6S
reactant | phenyl magnesium bromide | C1(=CC=CC=C1)[Mg]Br
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-benzoyl-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2-carboxylic acid benzhydryloxy-amide | C(C1=CC=CC=C1)(C1=CC=CC=C1)ONC(=O)C1N(CC=CCC1C(C1=CC=CC=C1)=O)S(=O)(=O)C1=CC=C(C=C1)OC | C34H32N2O6S
